US04569978
A vinylidene fluoride-tetrafluoroethylene copolymer (70/30 wt %) was prepared by a procedure similar to that described in Example 15. The autoclave was charged with 4900 ml of D.I. water, 215 ml of 1% by weight ammonium perfluorodecanoate in D.I. water, and 1 gram of a paraffinic wax, closed, evacuated and, with agitation, (72 rpm) heated to about 75° C. Approximately 227 grams of a 90/10 weight % mixture of VDF and tetrafluoroethylene (TFE) monomers and 9 grams of TCFM were then charged to the autoclave which elevated the pressure to about 400 psig. Polymerization was begun by introducing about 37 ml of the initiator emulsion into the autoclave. Monomer mixture and TCFM were added throughout the reaction in a constant ratio of approximately 1.2 gram of TCFM per 28.53 gram of monomer mixture. About 540 grams of monomer mixture were added during the first hour, 794 grams during the second hour and 680 grams during the third hour until a total, including the initial charge, of about 2300 grams of monomer mixture and 88 grams (2.02 mole % based on total monomer) had been added. Additional initiator was added to the reaction in amounts sufficient to maintain the reaction. Approximately 63 ml of additional initiator were added during the first hour. Thereafter, further addition of initiator was not needed to maintain the polymerization. The amount of IPP used was equivalent to 0.87 gram per kilogram of total monomers. The recovered latex had a solids content of 31.0% by weight. The latex was coagulated, washed with D.I. water and dried at about 110° C. to produce the copolymer product in powder form. The copolymer had an apparent melt viscosity of 16,683 poise. High temperature voids were 1.89%.

reactant | ammonium perfluorodecanoate | FC(C(=O)[O-])(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F.[NH4+]
solvent | water | O | H2O
product | vinylidene fluoride tetrafluoroethylene | C(=C)(F)F.FC(=C(F)F)F | InChI=1S/C2F4.C2H2F2/c3-1(4)2(5)6;1-2(3)4/h;1H2
